US09388189B2
(S)-2-(1-((5-(3-Methoxybenzyl)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one
(S)-2-(1-((5-Bromo-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one (140 mg, 0.17 mmol) was treated with 2-(3-methoxybenzyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane (100 mg, 0.17 mmol), cesium carbonate (164 mg, 0.50 mmols) and 1,1′-bis(diphenylphosphino)ferrocene-palladium(II)dichloride dichloromethane complex (14 mg, 0.02 mmol) according to the method described in Preparation 62. The residue was purified using SP1® Purification System (0% to 50%, hexane-ethyl acetate) to obtain 55 mg of the title compound. Purity 50%.

reactant | (S)-2-(1-((5-Bromo-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 0.17 mmol, 140 mg | BrC1=CN(C=2N=CN=C(C21)N[C@@H](C)C2=NN1C(C(N2C2=CC=CC=C2)=O)=C(C=C1)C)COCC[Si](C)(C)C | C27H32BrN7O2Si
reactant | 2-(3-methoxybenzyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 0.17 mmol, 100 mg | COC=1C=C(CB2OC(C(O2)(C)C)(C)C)C=CC1 | C14H21BO3
reactant | cesium carbonate | 0.50 mmols, 164 mg | C([O-])([O-])=O.[Cs+].[Cs+]
product | (S)-2-(1-((5-(3-Methoxybenzyl)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 55 mg | COC=1C=C(CC2=CN(C=3N=CN=C(C32)N[C@@H](C)C3=NN2C(C(N3C3=CC=CC=C3)=O)=C(C=C2)C)COCC[Si](C)(C)C)C=CC1 | C35H41N7O3Si
